US07696223B2
e) {[7-Hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (129 mg, 0.39 mmole) and glycine (588 mg, 7.83 mmole) in 0.5 M sodium methoxide/methanol (14.8 ml) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (50 ml) and extracted twice with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (9 ml). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (122 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.48 (br s, 1H), 8.89 (s, 1H), 7.69 (m, 2H), 7.51 (m, 1H), 7.22 (m, 1H). 4.02 (d, J=6.2 Hz, 2H), 3.86 (s, 3H); MS: (+) m/z 359.90 (M+1); (−) m/z 357.92 (M−1).

reactant | 7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.39 mmole, 129 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC(=CC=C2)OC)O | C16H14N2O4S
reactant | glycine | 7.83 mmole, 588 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 14.8 ml | C[O-].[Na+].CO
product | {[7-Hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 122 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)C2=CC(=CC=C2)OC | C16H13N3O5S
